US08980938B2
1.023 g 2-[(1-methoxymethoxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester was dissolved in a mixture of isopropanol (8 ml), tetrahydrofurane (8 ml) and HCl conc. (4 ml). It was stirred at room temperature for one hour. The mixture was concentrated in vacuo, then 20 ml of ethyl acetate and 30 ml of water were added to the residue. The organic layer was separated, dried over magnesium sulphate and concentrated in vacuo to afford 0.857 g of 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester.

reactant | 2-[(1-methoxymethoxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 1.023 g | COC(C(C)(C)NC(=O)C1=C(C=2CCCCC2C=C1)OCOC)=O | C18H25NO5
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofurane | 8 ml | O1CCCC1 | C4H8O
solvent | HCl | 4 ml | Cl | ClH
product | 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 0.857 g | COC(C(C)(C)NC(=O)C1=C(C=2CCCCC2C=C1)O)=O | C16H21NO4
